US06500863B1
(N-cyclopentyl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide
Following the general hydrogenation procedure outlined in example 15, (N-cyclopentyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide (0.54 g, 1.7 mmol) was reduced with hydrogen and 10%,Pd/C (0.54 g) to form the desired product (0.45 g, crude). LC-MS m/z 291(M+).

reactant | (N-cyclopentyl)-6-chloro-2-hydroxy-3-nitrobenzenesulfonamide | 1.7 mmol, 0.54 g | C1(CCCC1)NS(=O)(=O)C1=C(C(=CC=C1Cl)[N+](=O)[O-])O | C11H13ClN2O5S
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 0.54 g | [Pd] | Pd
product | (N-cyclopentyl)-3-amino-6-chloro-2-hydroxybenzenesulfonamide | 0.45 g | C1(CCCC1)NS(=O)(=O)C1=C(C(=CC=C1Cl)N)O | C11H15ClN2O3S
